US09428490B2
3,5-Bis(trifluoromethyl)-phenylacetonitrile (1.4 mL, 1.0 eq.) was dissolved in THF (20 mL). The reaction mixture was cooled to −78° C. where a solution of NaHMDS (35% in THF) (4.34 mL, 1.05 eq.) was added dropwise. The reaction mixture was allowed to warm to 10° C. and stirred for 15 min. Then it was cooled to −78° C. where ethyl bromoacetate (0.87 mL, 1.0 eq.) was added. The reaction mixture was then allowed to warm to room temperature where it was stirred for 16 h. Reaction mixture was poured into water (50 mL) and was extracted with EtOAc (3×20 mL) The combined organic layers were washed with brine solution (3×50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to afford 3.5 g of crude product, which was purified by chromatography (4% ethyl acetate in hexane) to give 1.2 g of ethyl 3-(3,5-bis(trifluoromethyl)phenyl)-3-cyanopropanoate (Yield 44.94%).

reactant | 3,5-Bis(trifluoromethyl)-phenylacetonitrile | 1.4 mL, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)CC#N)(F)F | C10H5F6N
reactant | NaHMDS | 4.34 mL, 1.05 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 0.87 mL, 1.0 eq. | BrCC(=O)OCC | C4H7BrO2
reactant | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3,5-bis(trifluoromethyl)phenyl)-3-cyanopropanoate | 1.2 g, Yield 44.94% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CC(=O)OCC)C#N)(F)F | C14H11F6NO2
